US04885307
Stage A: 1,5-dihydro-5-cyclopentyloxy-2H-pyrrol-2-one.
A mixture of 4.5 g of 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one, 100 cm3 of cyclopentanol and 2.25 g of Amberlite IR 120 H is maintained for 8 hours at 60° C. It is then allowed to cool, is filtered, and evaporated to dryness. The residue is chromatographed on silica (eluent: ethyl acetate-n-hexane, 1--1). 3 g of the expected product is obtained, m.p.=77°-78° C. crystallized from cyclohexane. After recrystallizing from a mixture of isopropyl ether-n-hexane, 1--1, m.p.=81°-82° C.

reactant | 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one | 4.5 g | OC1C=CC(N1)=O | C4H5NO2
reactant | cyclopentanol | 100 cm3 | C1(CCCC1)O | C5H10O
product | 1,5-dihydro-5-cyclopentyloxy-2H-pyrrol-2-one | 3 g | C1(CCCC1)OC1C=CC(N1)=O | C9H13NO2
